US09315542B2
(2S,4S)-1-Iodo-4-((S)-3-methoxy-2-((S)-3-methoxy-2-(2-methythiazole-5-carboxamido)propanamido)propanamido)-2-methyl-3-oxo-5-phenylpentan-2-yl 2-(acetoxymethyl)benzoate
Prepared according to procedures described above, by reacting 2-(acetoxymethyl)benzoic anhydride with N—((S)-1-(((S)-1-(((2S,4S)-4-hydroxy-5-iodo-4-methyl-3-oxo-1-phenylpentan-2-yl)amino)-3-meth o xy-1-oxopropan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)-2-methylthiazole-5-carboxamide. MS for C35H41IN4O10S m/z: 837 (M+H)+.

reactant | 2-(acetoxymethyl)benzoic anhydride | C(C)(=O)OCC1=C(C(=O)OC(C2=C(C=CC=C2)COC(C)=O)=O)C=CC=C1 | C20H18O7
reactant | N—((S)-1-(((S)-1-(((2S,4S)-4-hydroxy-5-iodo-4-methyl-3-oxo-1-phenylpentan-2-yl)amino)-3-meth o xy-1-oxopropan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)-2-methylthiazole-5-carboxamide | O[C@@](C([C@H](CC1=CC=CC=C1)NC([C@H](COC)NC([C@H](COC)NC(=O)C1=CN=C(S1)C)=O)=O)=O)(CI)C | C25H33IN4O7S
product | (2S,4S)-1-Iodo-4-((S)-3-methoxy-2-((S)-3-methoxy-2-(2-methythiazole-5-carboxamido)propanamido)propanamido)-2-methyl-3-oxo-5-phenylpentan-2-yl 2-(acetoxymethyl)benzoate | C(C)(=O)OCC1=C(C(=O)O[C@](CI)(C([C@H](CC2=CC=CC=C2)NC([C@H](COC)NC([C@H](COC)NC(=O)C2=CN=C(S2)C)=O)=O)=O)C)C=CC=C1 | C35H41IN4O10S
